US08242125B2
47-D. (±)-7-Benzyl-8-methyl-5,6,7,8-tetrahydro-3H-pyrido[3,4-d]pyrimidin-4-one
A mixture of 1-benzyl-2-methyl-3-oxo-piperidine-4-carboxylic acid methyl ester (1.0 g, 3.9 mmol), formamidine hydrochloride (930 mg, 11.6 mmol), and EtOH (6 mL) is treated with NaOEt solution (5.5 mL, 13.57 mmol, 21% w/w in EtOH) and the reaction is stirred at 90° C. for 2 h. Reaction is concentrated in vacuo after adjusting to pH 6. Residue is via semi-prep HPLC (C18; 10-100% I/H2O with 0.1% NH4OH) to give the title compound. MS (ESI) m/z 256.0 (M+1).

reactant | 1-benzyl-2-methyl-3-oxo-piperidine-4-carboxylic acid methyl ester | 3.9 mmol, 1.0 g | COC(=O)C1C(C(N(CC1)CC1=CC=CC=C1)C)=O | C15H19NO3
reactant | formamidine hydrochloride | 11.6 mmol, 930 mg | Cl.C(=N)N
reactant | NaOEt | 13.57 mmol, 5.5 mL | CC[O-].[Na+]
solvent | EtOH | 6 mL | CCO | C2H6O
product | (±)-7-Benzyl-8-methyl-5,6,7,8-tetrahydro-3H-pyrido[3,4-d]pyrimidin-4-one | C(C1=CC=CC=C1)N1C(C=2N=CNC(C2CC1)=O)C | C15H17N3O
